US05719296
Preparation of L-Norvaline Methyl Ester (1)
To 20 mL of methanol was slowly added 2.6 mL acetyl chloride. Then 2.0 g (17.1 mmole) of L-norvaline was added. The solution was heated to reflux and monitored by thin-layer chromatography (TLC) until complete. The methanol was stripped off by rotary evaporation and the resulting oil was pumped under high vacuum overnight to give the title compound. NMR(300 MHZ, CD3OD): δ 4.03 (t, Nva-α, 1H), 3.81 (s, COOCH3, 3H), 1.87 (m, CH2CH2CH3, 2H), 1.44 (m, CH2CH2CH3, 2H), 0.98 (t, CH2CH2CH3, 3H).

reactant | acetyl chloride | 2.6 mL | C(C)(=O)Cl | C2H3ClO
reactant | L-norvaline | 17.1 mmole, 2.0 g | N[C@@H](CCC)C(=O)O | C5H11NO2
solvent | methanol | 20 mL | CO | CH4O
product | L-Norvaline Methyl Ester | COC([C@@H](N)CCC)=O | C6H13NO2
